US03975360
Using the procedure of Example 1, 119 grams of 3-(3,5-ditertiarybutyl-4-hydroxybenzyl)-2,4-pentanedione was reduced with 28.2 grams of lithium aluminum hydride. There was obtained 40 grams of 3-(3,5-ditertiarybutyl-4-hydroxybenzyl)-2,4-pentanediol which melted at 102° to 105° C.

reactant | 3-(3,5-ditertiarybutyl-4-hydroxybenzyl)-2,4-pentanedione | 119 grams | C(C)(C)(C)C=1C=C(CC(C(C)=O)C(C)=O)C=C(C1O)C(C)(C)C | C20H30O3
reactant | lithium aluminum hydride | 28.2 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-(3,5-ditertiarybutyl-4-hydroxybenzyl)-2,4-pentanediol | 40 grams | C(C)(C)(C)C=1C=C(CC(C(C)O)C(C)O)C=C(C1O)C(C)(C)C | C20H34O3
